US06656965B2
Preparation of Nα-benzenesulfonyl-Nα-isobutyl-Nε-[N′α-(4-methylbenzenesulfonyl)-L-phenylalanyl]-L-lysine
A suspension of Nα-benzenesulfonyl-Nα-isobutyl-L-lysine (150 mg, 0.5 mmol), in THF (10 mL) was treated with a 1N NaOH (3.0 mL) to pH 10. A solution of commercially available Nα-(4-methylbenzenesulfonyl)-L-phenylalanine acid chloride (187 mg, 0.5 mmol), in dry THF (10 mL) was added to the suspension and stirred for 4 h. Afterwards, water (2 mL) was added resulting in a clear solution. Them, EtOAc (30 mL) was added and the organic phase was washed with 1N HCl. The organic phase was removed. Evaporation of the solvent gave a crude product which was purified by preparative HPLC to yield 19 mg (6%) of the title compound.

reactant | Nα-benzenesulfonyl-Nα-isobutyl-L-lysine | 0.5 mmol, 150 mg | C1(=CC=CC=C1)S(=O)(=O)N([C@@H](CCCCN)C(=O)O)CC(C)C | C16H26N2O4S
reactant | NaOH | 1N, 3.0 mL | [OH-].[Na+]
reactant | water | 2 mL | O | H2O
reactant | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | THF | 10 mL | C1CCOC1 | C4H8O
product | Nα-benzenesulfonyl-Nα-isobutyl-Nε-[N′α-(4-methylbenzenesulfonyl)-L-phenylalanyl]-L-lysine | 19 mg, 6% | CC1=CC=C(C=C1)S(=O)(=O)N[C@@H](CC2=CC=CC=C2)C(=O)NCCCC[C@@H](C(=O)O)N(CC(C)C)S(=O)(=O)C3=CC=CC=C3 | C32H41N3O7S2
